US08217035B2
To a suspension of 7-(methylsulfonyl)-3-nitroquinoline (85 mg, 0.4 mmol) in EtOAc (6 mL,) under argon, was added 10% Pd/C (22 mg, 0.04 mmol). A H2 balloon was connected to the reaction flask, the flask was purged with H2 three times and the reaction mixture was allowed to stir under H2 atmosphere for 18 h. Unreacted starting material could be seen settling to the bottom of the flask together with the catalyst. The solids were removed from the EtOAc solution by filtration. Evaporation of EtOAc under reduced pressure yielded 7-(methylsulfonyl)-3-quinolylamine (22 mg, 30%). LC/MS (m/z): 223.0 (MH+), Rt 1.10 minutes.

reactant | 7-(methylsulfonyl)-3-nitroquinoline | 0.4 mmol, 85 mg | CS(=O)(=O)C1=CC=C2C=C(C=NC2=C1)[N+](=O)[O-] | C10H8N2O4S
solvent | EtOAc | 6 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 0.04 mmol, 22 mg | [Pd] | Pd
product | 7-(methylsulfonyl)-3-quinolylamine | 22 mg, 30% | CS(=O)(=O)C1=CC=C2C=C(C=NC2=C1)N | C10H10N2O2S
